US05063247
A 10 ml methylene chloride solution of 1.0 g (5.09 mmol) of 2,4,6-trichloroaniline was added dropwise over 2 minutes to a 10 ml methylene chloride solution of 0.6 ml (4.97 mmol) of trichloromethyl chloroformate cooled to 5°-6° C. After stirring at 5°-6° C. for 2 hours, the mixture was added with 1.04 g (5.06 mmol) of 4-octylaniline and then stirred at room temperature for 16 hours. The reaction mixture was extracted with chloroform, and washed with an aqueous saturated solution of sodium hydrogen carbonate and an aqueous saturated solution of sodium chloride, successively. The organic layer was dried over anhydrous magnesium sulfate. After the removal of the solvent under reduced pressure, the residue was recrystallized from a mixed solvent of n-heptane and chloroform to give 0.95 g (43% yield) of 1-(4-octylphenyl)-3-(2,4,6-trichlorophenyl)urea, the physical properties of which being shown in the following Table 3. The compounds No. 4 and No. 11 listed in Table 3 were similarly prepared as above.

reactant | 2,4,6-trichloroaniline | 5.09 mmol, 1.0 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | trichloromethyl chloroformate | 4.97 mmol, 0.6 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 4-octylaniline | 5.06 mmol, 1.04 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-octylphenyl)-3-(2,4,6-trichlorophenyl)urea | 0.95 g, 43% yield | C(CCCCCCC)C1=CC=C(C=C1)NC(=O)NC1=C(C=C(C=C1Cl)Cl)Cl | C21H25Cl3N2O
